US07659311B2
Sodium carbonate (194.0 g, 1.8 mol) was added to a 5 liter, 4-neck, round bottomed, flask containing 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione (323.1 g, 1.6 mol) and dimethylacetamide (970 ml). Ethyl-8-bromooctanoate (459.0 g, 1.8 mol) was added in one portion to the stirring reaction mixture. The atmospheric pressure in the reaction vessel was reduced to 550 mm Hg and heating of the reaction mixture was started. The reaction temperature was maintained at 70° C. for approximately 5 hours before heating and vacuum were discontinued. The reaction mixture was allowed to cool to room temperature overnight. The reaction mixture was vacuum filtered and the filter cake was washed with ethyl alcohol (525 ml). Deionized water (525 ml) was slowly added to the stirred filtrate and a white solid precipitated. An ice/water bath was placed around the reaction vessel and the slurry was cooled to 5° C. After stirring at this temperature for approximately 15 minutes the solids were recovered by vacuum filtration and the filter cake was washed first with ethanol (300 ml) and then with heptane (400 ml). After drying overnight at room temperature in vacuo, 598.4 g (99.5%) of ethyl 8-(6-chloro-2H-1,3-benzoxazine-2,4(3H)-dionyl)octanoate was obtained. An additional 66.6 g of ethyl 8-(6-chloro-2H-1,3-benzoxazine-2,4(3H)-dionyl)octanoate was made by this same method.

reactant | Sodium carbonate | 1.8 mol, 194.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione | 1.6 mol, 323.1 g | ClC=1C=CC2=C(C(NC(O2)=O)=O)C1 | C8H4ClNO3
reactant | Ethyl-8-bromooctanoate | 1.8 mol, 459.0 g | C(C)OC(CCCCCCCBr)=O | C10H19BrO2
solvent | dimethylacetamide | 970 ml | CC(=O)N(C)C | C4H9NO
product | ethyl 8-(6-chloro-2H-1,3-benzoxazine-2,4(3H)-dionyl)octanoate | 598.4 g, 99.5% | ClC=1C=CC2=C(C(N(C(O2)=O)CCCCCCCC(=O)OCC)=O)C1 | C18H22ClNO5
